US07812167B2
To a solution of diispropylamine (25 mmol, 3.6 mL) in 24 mL of THF and 7.5 mL of methidathion (DMTP) at −78° C. is added n-BuLi (25 mmol, 10 mL, 2.5 M in hexanes) and the mixture stirred for 15 min. 4-Methylsulfonylphenylacetic acid methyl ester (24 mmol, 5.47 g) in 24 mL of THF and 7.5 mL of DMTP is then added dropwise over 30 min and the reaction is stirred for 90 min further. Cyclopentylmethyliodide (28.9 mmol, 6.08 g) in 10 mL of THF is then added dropwise and the reaction is stirred for 1 h at −78° C. before allowing to warm to RT. After 12 h, the reaction is quenched with water, evaporated and then partitioned between ethyl acetate (EtOAc) and brine, and the organic solution is dried and evaporated to afford an oil. The crude material is chromatographed on silica (eluent: 5%→25% EtOAc in hexanes) to afford 3-cyclopentyl-2-(4-methanesulfonyl-phenyl)-propionic acid methyl ester.

reactant | n-BuLi | 25 mmol, 2.5 M, 10 mL | [Li]CCCC
reactant | 4-Methylsulfonylphenylacetic acid methyl ester | 24 mmol, 5.47 g | COC(CC1=CC=C(C=C1)S(=O)(=O)C)=O | C10H12O4S
reactant | Cyclopentylmethyliodide | 28.9 mmol, 6.08 g | C1(CCCC1)CI | C6H11I
solvent | THF | 24 mL | C1CCOC1 | C4H8O
solvent | THF | 24 mL | C1CCOC1 | C4H8O
solvent | DMTP | 7.5 mL | COC1=NN(C(=O)S1)CSP(=S)(OC)OC | C6H11N2O4PS3
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | methidathion | 7.5 mL | COC1=NN(C(=O)S1)CSP(=S)(OC)OC | C6H11N2O4PS3
product | 3-cyclopentyl-2-(4-methanesulfonyl-phenyl)-propionic acid methyl ester | COC(C(CC1CCCC1)C1=CC=C(C=C1)S(=O)(=O)C)=O | C16H22O4S
